Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Valium / Penicillins / Omeprazole Sodium / Morphine / 
Lisinopril / mango / papaya
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
Large volume paracentesis ___
 
History of Present Illness:
___ w/ HCV/ETOH cirrhosis (genotype 1a, child's class B with hx
ascites), polysubstance abuse, COPD, HTN, HLD, RA, p/w few month
hx of worsening abd pain, distention, and difficulty taking a
deep breath. Patient follows at ___ clinic. Her 
last
visit in ___ was notable for increased ascites for which her
Lasix dose was increased from 20mg PO QD to 40mg PO QD. She was
previously on HCTZ that has since been discontinued. Patient has
had paracentesis in the past for volume management of her
ascites. This has been a slowly progressive process leading to
worsening diffuse waxing and waning abdominal pain. Patient
denies cough but reports SOB due to significant abdominal
distension. She denies fevers/chills. No chest pain. No
nausea/vomiting/hematemesis. She reports feeling like she needs
to have a bowel movement but not being able to move her bowels
regularly. Still passing gas. Reports urine appearance has
changed color and decreased in output. Positive difficulty
sleeping but no confusion or cloudiness. 

In the ED, initial VS were: T 97.7 HR 104 BP 184/71 RR 18 100% 
ra
Exam notable for: Diffuse abd distension, TTP, diminished BS b/l
Labs showed: wbc 4.4, hgb 9 (higher than recent values in ___,
plt 86, HCO3 20, Cr 0.6, INR 1.5, AST/ALT 41/13, AP 141, tbili
1.3, alb 3.3, UA unremarkable, urine cocaine positive, negative
serum tox.
Imaging showed: RUQUS pending.
Received: Fentanyl 50 mg IV x3, cipro 400 mg qd
Hepatology was consulted and recommended RUQUS w/ Doppler and
diagnostic paracentesis. Paracentesis w/ 1.4 protein, 131 glc,
303 WBC (74% macrophages and 9% PMNs), gram stain w/ no
microorganisms. 
Transfer VS were: T 98.6 HR 95 BP 128/80 RR 18 99% ra

On arrival to the floor, patient reports the above history. She
continues to have ___ abdominal pain and ___ SOB due to
abdominal distension. 

 
Past Medical History:
PAST MEDICAL AND SURGICAL HISTORY:  
Hepatitis C cirrhosis- genotype 1a decompensated with h/o
ascites; liver biopsy in ___ showed stage ___ fibrosis
Hypertension
Hyperlipidemia
COPD
Alcohol abuse
Depression
Cocaine abuse
Tobacco abuse
Atypical chest pain
Breast pain
Abdominal pain
Cervical spondylosis
L subclavian stenosis
Peripheral vascular disease
GERD s/p lap fundoplication and hiatal hernia repair ___
s/p cholecystectomy
s/p R inguinal hernia repair

 
Social History:
___
Family History:
Mom had DM, CAD (COD), and was in a wheelchair for neuropathy.
Father had alcoholism and rectal CA (COD).
Sister has mental illness, also hx of falls. 
Siblings: 1 brother neonatal death, 1 brother death at 3 months, 
1 brother sudden death in ___.
 
Physical Exam:
ADMISSION EXAM
==============
VS:  98.1  155/73  95  22  98%Ra 
GENERAL: Middle aged female, appears uncomfortable in bed.
breathing shallowly. 
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi
ABDOMEN: +BS, significant abdominal distension with diffuse
tenderness to palpation, greatest in RUQ. +fluid wave
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose. No
asterixis.   
SKIN: scattered spider angiomata

DISCHARGE EXAM
==============
VS: 98.0, HR 85, 123/68, RR 18, 96% RA 
GENERAL: Middle aged female, appears well, NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS:  CTAB, no wheeze
ABDOMEN: +BS, mild abdominal distension, minimal tenderness,
reducible umbilical hernia noted
EXTREMITIES: No cyanosis, clubbing, or edema
NEURO: Alert, oriented to person, place, time. Moving all 4
extremities with purpose. No asterixis. Ambulating around the
halls without difficulty
 
Pertinent Results:
ADMISSION LABS
==============
___ 10:55AM BLOOD WBC-4.4 RBC-3.62* Hgb-9.0* Hct-30.2* 
MCV-83 MCH-24.9* MCHC-29.8* RDW-21.2* RDWSD-63.7* Plt Ct-86*
___ 10:55AM BLOOD Neuts-70.6 Lymphs-17.0* Monos-10.8 
Eos-0.9* Baso-0.5 Im ___ AbsNeut-3.07 AbsLymp-0.74* 
AbsMono-0.47 AbsEos-0.04 AbsBaso-0.02
___ 10:55AM BLOOD ___ PTT-34.2 ___
___ 10:55AM BLOOD Glucose-117* UreaN-5* Creat-0.6 Na-136 
K-3.6 Cl-101 HCO3-20* AnGap-15
___ 10:55AM BLOOD ALT-13 AST-41* AlkPhos-141* TotBili-1.3 
DirBili-0.4* IndBili-0.9
___ 10:55AM BLOOD Albumin-3.3*

NOTABLE LABS
============
___ 10:55AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 04:27AM BLOOD HCV VL-6.0*

MICRO
=====
___ URINE URINE CULTURE-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
INPATIENT 
___ PERITONEAL FLUID GRAM STAIN-FINAL; FLUID 
CULTURE-FINAL; ANAEROBIC CULTURE-FINAL EMERGENCY WARD 
___ URINE URINE CULTURE-FINAL EMERGENCY WARD 

IMAGING
=======
___ ABDOMINAL XR
IMPRESSION:   
Cirrhosis with sequela of portal hypertension.  Moderate ascites 
is increased from most recent prior. 

___ ABD XR
IMPRESSION:  
No definite radiographic evidence of bowel obstruction; mildly 
prominent loops 
of large bowel may represent colonic ileus. 

___ CXR
IMPRESSION:  
In comparison with the study of ___, there is 
little change and no evidence of acute cardiopulmonary disease.  
No pneumonia, vascular 
congestion, or pleural effusion. 
Large left perihilar bleb is again seen, better demonstrated on 
a prior CT 
scan. 

___ LIVER US
IMPRESSION:  
Cirrhosis is of portal hypertension, including splenomegaly and 
small volume 
ascites.  No focal hepatic lesion.  Patent portal veins with 
appropriate 
directional flow. 

___ CXR
Very small pleural effusions unchanged.  No pneumothorax.  Mild 
left basal 
atelectasis.  Lungs otherwise clear.  Normal cardiomediastinal 
and hilar 
silhouettes. 

DISCHARGE LABS
==============
___ 04:35AM BLOOD WBC-2.7* RBC-2.79* Hgb-7.2* Hct-23.8* 
MCV-85 MCH-25.8* MCHC-30.3* RDW-22.4* RDWSD-69.5* Plt Ct-76*
___ 04:35AM BLOOD ___
___ 04:35AM BLOOD Glucose-139* UreaN-7 Creat-0.8 Na-137 
K-4.3 Cl-100 HCO3-23 AnGap-14
___ 04:35AM BLOOD ALT-14 AST-40 AlkPhos-79 TotBili-1.0
___ 04:35AM BLOOD Calcium-9.0 Phos-3.3 Mg-1.8
 
Brief Hospital Course:
HOSPITAL COURSE
===============
___ w/ HCV/ETOH cirrhosis (genotype 1a, child's class B with hx 
ascites), polysubstance abuse, COPD, HTN, HLD, RA, who p/w few 
month hx of worsening abd pain, distention, and SOB due to large 
volume ascites.  She received a large volume paracentesis with 
improvement in symptoms.  She developed ___ in the setting of 
diuresis, so her home Furosemide was decreased from 40mg to 20mg 
daily.  She developed asterixis and encephalopathy early in her 
hospital course, and was thus started on lactulose and 
rifaximin.

ACTIVE ISSUES
=============
# Abdominal pain: Has had distended abdomen and TTP for 3+ 
months. RUQUS showed moderate ascites, patent portal veins, and 
evidence of cirrhosis. S/p 4L paracentesis on ___ with some 
improvement.  Peritoneal studies not suggestive of SBP. Likely 
multifactorial from constipation, abdominal hernia, ascites. On 
discharge, pain was well controlled.  Received PO Dilaudid while 
inpatient, as needed.  She was given a 3 day prescription for 
her home Tramadol on discharge, with further narcotic refills 
needing to be done by her outpatient providers.

# ___: Cr up to 1.4 on ___, from baseline 0.6. Likely due to 
diuresis and paracentesis. Trialed albumin challenge on ___, 
___, with improvement in Cr back to baseline.  She was 
subsequently restarted on a lower dose diuretic, Lasix 20mg 
daily (home dose was 40mg), and tolerated this with stable Cr on 
day of discharge.

# Hepatic encephalopathy 
# HCV/ETOH cirrhosis:
___ MELD-Na 15 on admission, w/ hx ascites on 
diuretics. Last EGD (___) w/ 3 small varices.  Planned 
Harvoni therapy in future when medically able.  No prior history 
of SBP or Hepatic Encephalopathy.  Current presentation appeared 
to be slow decompensation of liver disease over time, as opposed 
to acute process. HCV-VL: 6.0. Diagnostic/therapeutic 
paracentesis showed no evidence of SBP.  Beta blocker and 
diuretics were held while patient had ___, and on discharge the 
Nadolol was held, and the Furosemide was decreased to 20mg 
(prior dose was 40mg).  Started lactulose and rifaximin given 
concern for HE with asterixis and confusion early in the 
admission.

# Dyspnea: Likely secondary to ascites and abdominal distension. 
Resolved after paracentesis. Afebrile, WBC stable, CXR without 
pneumonia or significant fluid. Continued home COPD regimen

# Polysubstance abuse: Hx heroin abuse in the past. Current ETOH 
use daily and intermittent cocaine. Positive for cocaine by tox 
screen in ED. SW consulted. Did not require CIWA inpatient.

# HTN: Held home valsartan 320 mg qd and amlodipine 5 mg qd 
given normal BP and ___.  Not to be restarted until discussed 
with PCP.

# Pancytopenia:  Relatively stable, likely related to cirrhosis
- Recheck as outpatient

CHRONIC ISSUES
==============
# Anemia: Hgb 9 on admission. Recent baseline ___. Last 
colonoscopy (___) and EGD (___) w/o source of bleeding. 
Continued folate and iron supplementation

# Nutrition: Continue home folate, thiamine, MVI, ca/vitamin D, 
iron. 

# Primary prevention: Continued home aspirin

# Pain: Held home gabapentin 800 mg TID as ineffective.  Resume 
home Tramadol on discharge.

# Allergies: Continued home loratidine, hydroxyzine prn, and 
Flonase.

# Insomnia: Continued home mirtazapine.

# HLD: Continued home simvastatin 20 mg qd

# GERD: Continued home pantoprazole 40 mg BID

TRANSITIONAL ISSUES
===================
[] Recommend outpatient lab recheck, including CBC to trend 
pancytopenia
[] CHANGED MEDICATIONS:  Lasix decreased from 40mg to 20mg daily
[] NEW MEDICATIONS:  Lactulose, Rifaximin
[] MEDICATIONS STOPPED:  Gabapentin (ineffective for her), 
Valsartan (developed ___, and BP was normal), Nadolol (developed 
___, varices were very small on last EGD, BP's were normal)
[] MEDICATIONS HELD:  Amlodipine - told pt not to restart until 
discussing with PCP
[] Re: hepatology, consider Harvoni as an outpatient
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing 
2. Amlodipine 5 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Ferrous Sulfate 325 mg PO DAILY 
6. Fluticasone Propionate NASAL 1 SPRY NU BID 
7. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
8. Gabapentin 800 mg PO TID 
9. HydrOXYzine 25 mg PO BID:PRN itch 
10. Loratadine 10 mg PO DAILY:PRN allergies 
11. Pantoprazole 40 mg PO Q12H 
12. Simvastatin 20 mg PO QPM 
13. Thiamine 100 mg PO DAILY 
14. Tiotropium Bromide 1 CAP IH DAILY 
15. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
16. Valsartan 320 mg PO DAILY 
17. Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg 
(1,500 mg)-800 unit oral BID 
18. Furosemide 40 mg PO DAILY 
19. Nadolol 20 mg PO DAILY 
20. FoLIC Acid 1 mg PO DAILY 
21. Mirtazapine 30 mg PO QHS 
22. Multivitamins W/minerals 1 TAB PO DAILY 

 
Discharge Medications:
1.  Lactulose 30 mL PO Q8H:PRN constipation 
take to ensure multiple bowel movements per day 
RX *lactulose 20 gram/30 mL 30 ml by mouth every 8 hours Disp 
#*1 Bottle Refills:*1 
2.  Rifaximin 550 mg PO BID 
RX *rifaximin [Xifaxan] 550 mg 1 tablet(s) by mouth twice daily 
Disp #*60 Tablet Refills:*0 
3.  Furosemide 20 mg PO DAILY 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1 
4.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing  
5.  Aspirin 81 mg PO DAILY  
6.  Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg 
(1,500 mg)-800 unit oral BID  
7.  Docusate Sodium 100 mg PO BID  
8.  Ferrous Sulfate 325 mg PO DAILY  
9.  Fluticasone Propionate NASAL 1 SPRY NU BID  
10.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
11.  FoLIC Acid 1 mg PO DAILY  
12.  HydrOXYzine 25 mg PO BID:PRN itch  
13.  Loratadine 10 mg PO DAILY:PRN allergies  
14.  Mirtazapine 30 mg PO QHS  
15.  Multivitamins W/minerals 1 TAB PO DAILY  
16.  Pantoprazole 40 mg PO Q12H  
17.  Simvastatin 20 mg PO QPM  
18.  Thiamine 100 mg PO DAILY  
19.  Tiotropium Bromide 1 CAP IH DAILY  
20.  TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every 6 hours Disp #*12 
Tablet Refills:*0 
21. HELD- Amlodipine 5 mg PO DAILY  This medication was held. Do 
not restart Amlodipine until discussing with your primary care 
doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cirrhosis with ascites, encephalopathy
Acute Kidney Injury
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with abdominal pain.  There 
were likely multiple causes for this, including ascites (fluid), 
and you improved somewhat after we drained out this fluid.

You were confused and had hand shaking (asterixis), which is a 
marker of a condition called hepatic encephalopathy. We started 
you medications called Lactulose and Rifaximin to treat this 
condition.

Because a kidney injury developed, we decreased the dose of your 
water pill (Lasix, aka Furosemide).  The dose is now 20mg, it 
used to be 40mg.  We also stopped your Nadolol, Amlodipine, and 
Gabapentin.

It was a privilege to care for you in the hospital, and we wish 
you all the best.

Sincerely,

Your ___ Team
 
Followup Instructions:
___